US07786132B2
1-(2-(5-Methyl-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
1-(2-(4-(5-Bromothiophen-2-yl)-5-methylpyrimidin-2-ylamino)ethyl)imidazolidin-2-one (0.1 g, 0.26 mmol), thiophen-2-ylboronic acid (0.066 g, 0.52 mmol), and sodium carbonate (0.26 mL of 2 M solution, 0.52 mmol) were added to a microwave tube containing dimethyl ether (2 mL). The tube was flushed with nitrogen and tetrakis(triphenylphosphine)palladium (0.06 g, 0.054 mmol) was added. The tube was capped and heated to 145° C. for 20 min in a Personal Chemistry microwave. The reaction was diluted with a mixture of 2:1 dichloromethane and methanol (9 mL), filtered through a pad of celite, washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was dried with sodium sulfate, concentrated in vacuo and purified by flash chromatography on silica gel using a gradient 2 to 10% of methanol in dichloromethane to afford a yellow solid. Yield=0.036 g. MS (M+H)+ 386.

reactant | 1-(2-(4-(5-Bromothiophen-2-yl)-5-methylpyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.26 mmol, 0.1 g | BrC1=CC=C(S1)C1=NC(=NC=C1C)NCCN1C(NCC1)=O | C14H16BrN5OS
reactant | thiophen-2-ylboronic acid | 0.52 mmol, 0.066 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.52 mmol, 2 M, 0.26 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl ether | 2 mL | COC | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 9 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.054 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-(5-Methyl-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | CC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC(=CC1)C=1SC=CC1 | C18H19N5OS2
